**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     ToroidalLineChoke Inductor
* Matchcode:          WE-FI
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 7447010_470u 1 2
Rp 1 2 8867
Cp 1 2 8.327p
Rs 1 N3 0.225
L1 N3 2 470u
.ends 7447010_470u
*******
.subckt 7447011_130u 1 2
Rp 1 2 3248
Cp 1 2 14.968p
Rs 1 N3 0.085
L1 N3 2 130u
.ends 7447011_130u
*******
.subckt 7447012_110u 1 2
Rp 1 2 3154
Cp 1 2 11.297p
Rs 1 N3 0.07
L1 N3 2 110u
.ends 7447012_110u
*******
.subckt 7447013_90u 1 2
Rp 1 2 2490
Cp 1 2 11.809p
Rs 1 N3 0.04
L1 N3 2 90u
.ends 7447013_90u
*******
.subckt 7447014_58u 1 2
Rp 1 2 2639
Cp 1 2 2.692p
Rs 1 N3 0.055
L1 N3 2 58u
.ends 7447014_58u
*******
.subckt 7447015_35u 1 2
Rp 1 2 1433
Cp 1 2 3.374p
Rs 1 N3 0.025
L1 N3 2 35u
.ends 7447015_35u
*******
.subckt 7447016_29u 1 2
Rp 1 2 1316
Cp 1 2 8.358p
Rs 1 N3 0.015
L1 N3 2 29u
.ends 7447016_29u
*******
.subckt 7447017_22u 1 2
Rp 1 2 1068
Cp 1 2 2.607p
Rs 1 N3 0.015
L1 N3 2 22u
.ends 7447017_22u
*******
.subckt 7447018_150u 1 2
Rp 1 2 3450
Cp 1 2 17.334p
Rs 1 N3 0.1
L1 N3 2 150u
.ends 7447018_150u
*******
.subckt 7447019_700u 1 2
Rp 1 2 15922
Cp 1 2 68.574p
Rs 1 N3 0.12
L1 N3 2 700u
.ends 7447019_700u
*******
.subckt 7447020_220u 1 2
Rp 1 2 6476
Cp 1 2 15.549p
Rs 1 N3 0.16
L1 N3 2 220u
.ends 7447020_220u
*******
.subckt 7447021_100u 1 2
Rp 1 2 3274
Cp 1 2 12.597p
Rs 1 N3 0.08
L1 N3 2 100u
.ends 7447021_100u
*******
.subckt 7447022_68u 1 2
Rp 1 2 2552
Cp 1 2 9.981p
Rs 1 N3 0.08
L1 N3 2 68u
.ends 7447022_68u
*******
.subckt 7447023_60u 1 2
Rp 1 2 2656
Cp 1 2 13.984p
Rs 1 N3 0.04
L1 N3 2 60u
.ends 7447023_60u
*******
.subckt 7447024_30u 1 2
Rp 1 2 1901
Cp 1 2 2.18p
Rs 1 N3 0.04
L1 N3 2 30u
.ends 7447024_30u
*******
.subckt 7447025_20u 1 2
Rp 1 2 1317
Cp 1 2 2.58p
Rs 1 N3 0.02
L1 N3 2 20u
.ends 7447025_20u
*******
.subckt 7447026_10u 1 2
Rp 1 2 827
Cp 1 2 2.149p
Rs 1 N3 0.01
L1 N3 2 10u
.ends 7447026_10u
*******
.subckt 7447027_20u 1 2
Rp 1 2 1132
Cp 1 2 6.512p
Rs 1 N3 0.015
L1 N3 2 20u
.ends 7447027_20u
*******
.subckt 7447028_150u 1 2
Rp 1 2 5601
Cp 1 2 14.299p
Rs 1 N3 0.13
L1 N3 2 150u
.ends 7447028_150u
*******
.subckt 74470291_220u 1 2
Rp 1 2 6509
Cp 1 2 20.261p
Rs 1 N3 0.15
L1 N3 2 220u
.ends 74470291_220u
*******
.subckt 74470292_130u 1 2
Rp 1 2 3548
Cp 1 2 11.942p
Rs 1 N3 0.09
L1 N3 2 130u
.ends 74470292_130u
*******
.subckt 7447030_36u 1 2
Rp 1 2 1442
Cp 1 2 1.866p
Rs 1 N3 0.4
L1 N3 2 36u
.ends 7447030_36u
*******
.subckt 7447031_140u 1 2
Rp 1 2 4264
Cp 1 2 16.646p
Rs 1 N3 0.11
L1 N3 2 140u
.ends 7447031_140u
*******
.subckt 7447032_110u 1 2
Rp 1 2 4351
Cp 1 2 7.806p
Rs 1 N3 0.23
L1 N3 2 110u
.ends 7447032_110u
*******
.subckt 7447033_68u 1 2
Rp 1 2 2575
Cp 1 2 12.297p
Rs 1 N3 0.055
L1 N3 2 68u
.ends 7447033_68u
*******
.subckt 7447034_43u 1 2
Rp 1 2 2196
Cp 1 2 8.143p
Rs 1 N3 0.06
L1 N3 2 43u
.ends 7447034_43u
*******
.subckt 7447035_15u 1 2
Rp 1 2 1344
Cp 1 2 1.749p
Rs 1 N3 0.025
L1 N3 2 15u
.ends 7447035_15u
*******
.subckt 7447036_220u 1 2
Rp 1 2 7296
Cp 1 2 14.761p
Rs 1 N3 0.22
L1 N3 2 220u
.ends 7447036_220u
*******
.subckt 7447037_360u 1 2
Rp 1 2 7827
Cp 1 2 16.847p
Rs 1 N3 0.45
L1 N3 2 360u
.ends 7447037_360u
*******
.subckt 7447040_240u 1 2
Rp 1 2 7484
Cp 1 2 16.776p
Rs 1 N3 0.38
L1 N3 2 240u
.ends 7447040_240u
*******
.subckt 7447041_68u 1 2
Rp 1 2 2778
Cp 1 2 7.8p
Rs 1 N3 0.1
L1 N3 2 68u
.ends 7447041_68u
*******
.subckt 7447042_56u 1 2
Rp 1 2 2708
Cp 1 2 7.132p
Rs 1 N3 0.18
L1 N3 2 56u
.ends 7447042_56u
*******
.subckt 7447043_24u 1 2
Rp 1 2 1718
Cp 1 2 3.875p
Rs 1 N3 0.045
L1 N3 2 24u
.ends 7447043_24u
*******
.subckt 7447044_22u 1 2
Rp 1 2 1368
Cp 1 2 4.96p
Rs 1 N3 0.03
L1 N3 2 22u
.ends 7447044_22u
*******
.subckt 7447045_8.2u 1 2
Rp 1 2 834
Cp 1 2 1.336p
Rs 1 N3 0.02
L1 N3 2 8.2u
.ends 7447045_8.2u
*******
.subckt 7447050_140u 1 2
Rp 1 2 5798
Cp 1 2 7.911p
Rs 1 N3 0.26
L1 N3 2 140u
.ends 7447050_140u
*******
.subckt 7447051_37u 1 2
Rp 1 2 2189
Cp 1 2 4.487p
Rs 1 N3 0.12
L1 N3 2 37u
.ends 7447051_37u
*******
.subckt 7447052_32u 1 2
Rp 1 2 2075
Cp 1 2 5.472p
Rs 1 N3 0.045
L1 N3 2 32u
.ends 7447052_32u
*******
.subckt 7447053_12u 1 2
Rp 1 2 840
Cp 1 2 1.33p
Rs 1 N3 0.03
L1 N3 2 12u
.ends 7447053_12u
*******
.subckt 7447054_10u 1 2
Rp 1 2 552
Cp 1 2 3.622p
Rs 1 N3 0.02
L1 N3 2 10u
.ends 7447054_10u
*******
.subckt 7447055_150u 1 2
Rp 1 2 3824
Cp 1 2 23.371p
Rs 1 N3 0.042
L1 N3 2 150u
.ends 7447055_150u
*******
.subckt 7447060_300u 1 2
Rp 1 2 6986
Cp 1 2 22.243p
Rs 1 N3 0.15
L1 N3 2 300u
.ends 7447060_300u
*******
.subckt 7447065_330u 1 2
Rp 1 2 7080
Cp 1 2 42.939p
Rs 1 N3 0.085
L1 N3 2 330u
.ends 7447065_330u
*******
.subckt 7447070_100u 1 2
Rp 1 2 2743
Cp 1 2 18.895p
Rs 1 N3 0.035
L1 N3 2 100u
.ends 7447070_100u
*******
.subckt 7447071_470u 1 2
Rp 1 2 9050
Cp 1 2 55.774p
Rs 1 N3 0.11
L1 N3 2 470u
.ends 7447071_470u
*******
.subckt 7447075_860u 1 2
Rp 1 2 14871
Cp 1 2 44.256p
Rs 1 N3 0.15
L1 N3 2 860u
.ends 7447075_860u
*******
.subckt 7447076_150u 1 2
Rp 1 2 3537
Cp 1 2 19.886p
Rs 1 N3 0.045
L1 N3 2 150u
.ends 7447076_150u
*******
